US06083961
A solution of 1-carboxymethyl-4-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]-benzyloxy]-2-ethyl-1H-benzimidazole (60 mg), dimethylamine hydrochloride (11.2 mg), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide (17.1 mg) and 1-hydroxybenzotriazole (18.6 mg) in dimethylformamide (1 ml) was stirred for 1 day at ambient temperature. To the reaction mixture was added water, and the mixture was extracted with chloroform. The organic layer was washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer chromatography (10% methanol-chloroform) to give 4-[2,6-dichloro-3-[N-methyl-N-[4-(methyl-carbamoyl)cinnamoylglycyl]amino]-benzyloxy]-2-ethyl-1-dimethylcarbamoylmethyl-1H-benzimidazole (46 mg) as amorphous.

reactant | 1-carboxymethyl-4-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]-benzyloxy]-2-ethyl-1H-benzimidazole | 60 mg | C(=O)(O)CN1C(=NC2=C1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(CNC(C=CC2=CC=C(C=C2)C(NC)=O)=O)=O)C)Cl)CC | C32H31Cl2N5O6
reactant | dimethylamine hydrochloride | 11.2 mg | Cl.CNC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide | 17.1 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 18.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[2,6-dichloro-3-[N-methyl-N-[4-(methyl-carbamoyl)cinnamoylglycyl]amino]-benzyloxy]-2-ethyl-1-dimethylcarbamoylmethyl-1H-benzimidazole | 46 mg | ClC1=C(COC2=CC=CC=3N(C(=NC32)CC)CC(N(C)C)=O)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | C34H36Cl2N6O5
